US09302996B2
Methanol (7 mL) and 1N aqueous sodium hydroxide solution (2.6 mL) were added to ethyl 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylate (327 mg), and the mixture was refluxed for 1 hour. Methanol was distilled off under reduced pressure, and the residue was neutralized by 1N hydrochloric acid. The mixture was extracted with ethyl acetate, the organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate. The mixture was concentrated under reduced pressure to obtain 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylic acid.

reactant | sodium hydroxide | 1N, 2.6 mL | [OH-].[Na+]
reactant | ethyl 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylate | 327 mg | ClC=1C=C(C=NC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C=NC(=CC1C)OCC1(CCC1)C(=O)OCC | C29H36ClF3N4O4Si
solvent | Methanol | 7 mL | CO | CH4O
product | 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylic acid | ClC=1C=C(C=NC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C=NC(=CC1C)OCC1(CCC1)C(=O)O | C27H32ClF3N4O4Si
